US05106851
N-(5-fluoro-2-nitrophenyl)methyl-phthalimide
A solution of 5-fluoro-2-nitro-benzylbromide (6.2 g) in dimethylformamide (20 ml) was dropped into a stirred suspension of potassium phthalimide (4.9 g) in the same solvent (40 ml). The mixture was heated under stirring to 90° C. for 2 hours, then cooled and diluted with water. The title compound (7.2 g) was recovered by filtration. M.p. 198°-200° C.

reactant | 5-fluoro-2-nitro-benzylbromide | 6.2 g | FC=1C=CC(=C(CBr)C1)[N+](=O)[O-] | C7H5BrFNO2
reactant | potassium phthalimide | 4.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(5-fluoro-2-nitrophenyl)methyl-phthalimide | FC=1C=CC(=C(C1)CN1C(C=2C(C1=O)=CC=CC2)=O)[N+](=O)[O-] | C15H9FN2O4
